US03996230
In a manner given in Example 1, 1,8-dibromo-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is heated with excess 1-(β-hydroxyethyl)piperazine to give 8-bromo-1-[4-(β-hydroxyethyl)piperazino]-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,8-dibromo-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC1=NN=C2N1C1=C(C(=NC2)C2=NC=CC=C2)C=C(C=C1)Br | C15H9Br2N5
reactant | 1-(β-hydroxyethyl)piperazine | OCCN1CCNCC1 | C6H14N2O
product | 8-bromo-1-[4-(β-hydroxyethyl)piperazino]-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)N3CCN(CC3)CCO)C3=NC=CC=C3)C1 | C21H22BrN7O
